US05591811
1-(2-Methylimidazolylmethyl)-2-naphthol
To a solution of 2-methylimidazole (82.1 g, 1 mole) and 2-naphthol (144.0 g, 1 mole) in isopropanol (400.0 g), formaline (37% aqueous solution, 1 mole of CH2O) is added over a period of 30 minutes at room temperature. Thereafter, the reaction mixture is agitated for 30 minutes at room temperature, followed by agitation at 80°-84° C. for four hours. The mixture is then cooled and filtered. The filtrate is triturated and dried in vacuo at 60° C. The product (a white powder) is obtained in a yield of 92% with a melting point of 207° C., as determined by Differential Scanning Calorimetry (DSC).

reactant | 2-methylimidazole | 1 mole, 82.1 g | CC=1NC=CN1 | C4H6N2
reactant | 2-naphthol | 1 mole, 144.0 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | formaline | 1 mole | C=O | CH2O
solvent | isopropanol | 400.0 g | C(C)(C)O | C3H8O
product | 1-(2-Methylimidazolylmethyl)-2-naphthol | yield of 92% | CC=1NC=C(N1)CC1=C(C=CC2=CC=CC=C12)O | C15H14N2O
